US05059692
Methyl 4,5-dihydro-4-(2-methylphenyl)-1-(1-methyl-2-pyrrolidinylideneamino)-5-oxo-thieno[2,3-c]isoquinoline-2-carboxylate (compound 9)
To a solution of methyl 1-amino-4,5-dihydro-4-(2-methylphenyl)-5-oxo-thieno[2,3-c]isoquinoline-2-carboxylate [M.P. 236°-237° C.), 510 mg] in 5 ml of N-methyl-2-pyrrolidone, which was prepared by a similar manner to that described in Example 2, was added 1.57 ml of phosphorus oxychloride at room temperature, and the mixture was stirred for 1 hour. The reaction mixture was poured into 50 ml of water, and neutralized with a saturated sodium bicarbonate aqueous solution. Precipitates were collected by a filtration, washed with water, extracted with chloroform, and dried over anhydrous magnesium sulfate. The solution was evaporated under reduced pressure, and the residue was dried under reduced pressure to obtain 583 mg of the desired product as yellow crystals.

reactant | methyl 1-amino-4,5-dihydro-4-(2-methylphenyl)-5-oxo-thieno[2,3-c]isoquinoline-2-carboxylate | NC1=C(SC=2N(C(C=3C=CC=CC3C21)=O)C2=C(C=CC=C2)C)C(=O)OC | C20H16N2O3S
reactant | phosphorus oxychloride | 1.57 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 50 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | Methyl 4,5-dihydro-4-(2-methylphenyl)-1-(1-methyl-2-pyrrolidinylideneamino)-5-oxo-thieno[2,3-c]isoquinoline-2-carboxylate | 583 mg | CC1=C(C=CC=C1)N1C(C=2C=CC=CC2C2=C1SC(=C2N=C2N(CCC2)C)C(=O)OC)=O | C25H23N3O3S
